US06784323B2
(R)-3-(1H-Indol-3-yl)-butanal (236 mg, 1.26 mmol) was dissolved in methanol (15 mL) and treated with trimethyl orthoformate (275 μl, 2.50 mmol) and a catalytic amount of p-TSA. The reaction was stirred at room temperature for 3 hours, at which time H2O (10 mL) was added and the reaction was extracted with ether (3×20 mL). The collected organics were rinsed with brine, dried over Na2SO4, and concentrated in vacuo to provide 3-(3,3-dimethoxy-1-methyl-propyl)-1H-indole (228 mg, 1.17 mmol). 3-(3,3-dimethoxy-1-methyl-propyl)-1H-indole (39.9 mg, 0.171 mmol) was dissolved in a KOH (38.4 mg, 0.684 mmol)/DMSO (2 mL) solution and allowed to stir at 0° C. for 10 min, at which time dimethyl sulfate (32.5 μl, 0.340 mmol) was added and the reaction was allowed to warm to room temperature. The reaction was left to stir at room temperature until it appeared done by TLC. The reaction was quenched with H2O (1 mL) and brought to a neutral pH with dropwise addition of 1M HCl. The solution was extracted with Et2O (3×5 mL), and the collected organics were rinsed with brine, dried over Na2SO4, and concentrated in vacuo to provide 3-(3,3-dimethoxy-1-methyl-propyl)-1-methyl-indole. This crude residual material was dissolved in THF (5 mL) and 1M HCl (1 mL) to give (R)-3-(1-methyl-1H-indol-3-yl)-butanal (1.9 mg, 0.0094 mmol) after preparative TLC (25:75 EtOAc/hexanes). [α]D=−4.1 (c=1.0, CHCl3); reported rotation for (R)-3-(1-methyl-1H-indol-3-yl)-butanal [α]D=−4.2 (c=1.0, CHCl3).

reactant | (R)-3-(1H-Indol-3-yl)-butanal | 1.26 mmol, 236 mg | N1C=C(C2=CC=CC=C12)[C@@H](CC=O)C | C12H13NO
reactant | trimethyl orthoformate | 2.50 mmol, 275 μl | C(OC)(OC)OC | C4H10O3
reactant | p-TSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | H2O | 10 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 3-(3,3-dimethoxy-1-methyl-propyl)-1H-indole | 1.17 mmol, 228 mg | COC(CC(C)C1=CNC2=CC=CC=C12)OC | C14H19NO2
